Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Trauma evaluation s/p fall
 
Major Surgical or Invasive Procedure:
Right chest pigtail placement.

 
History of Present Illness:
___ who presents to the ED, but her presenting complaint is 
unknown. Per chart review, it seems like on late ___ she had a 
fall resulting in a C7 vertebral body facet fracture with 
anterior displacement seen on CT C-spine, right fourth and fifth 
rib fractures, hemothorax which was not drained, R clavicle 
fracture.
At the time of the fall, she was on Eliquis for DVT prophylaxis. 
It is unknown when she last took Eliquis.
.
The patient was noted to have left hand weakness with inability 
to extend her third fourth and fifth digit. Repeat CT head and C 
spine from ___ showed C7 superior endplate 
compression fracture which extends into the superior aspect of 
the left facet with anterior displacement into the neural canal. 
She was transferred to ___ for evaluation by Spine. 
.
Reportedly, the patient was hypoxic at the outside hospital and 
she was placed on O2.
 
Past Medical History:
Past medical history:
DVT
Dementia 
Hypothyroidism
HT
A fib
.
Past surgical history:
R? axillary lymphadenectomy
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

T 99.4    HR 77    BP 133/62     RR 16     SatO2 93% RA
NAD
No respiratory distress
C collar in place
Blunted breath sounds on the right side
Tenderness to palpation of the right chest wall
Abdomen soft, non tender, non-distended
Extremities no edema, motor and sensory intact except for
weakness of the left hand grip
Multiple

Discharge Physical Exam:
VS: 97.4 PO 144 / 70 L Lying 64 18 98 2L Nc 
GEN: Awake, alert, oriented.
HEENT: PERRL. EOMI. 
CV: Irregulr
PULM: Clear bilaterally. Diminished in the bases R>L.
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. ___ pulses. no edema. Bilateral knee 
ecchymosis/hematoma. Right scapula ecchymosis. L digits 4 and 5: 
flexion and extension ___. abduction ___. Froment's sign: (+) 
on L ___ digit. 

 
Pertinent Results:
IMAGING OSH:

CXR
Compared to 1 day prior, lower right lung volume with increased
opacification which likely represents layering pleural effusion. 

  
OSH CT head reviewed with radiology: no evidence of intracranial
traumatic injury

OSH C spine reviewed with radiology: C7 superior endplate
compression fracture which extends into the superior aspect of
the left facet with anterior displacement into the neural canal

IMAGING: ___:

___: Abdominal x-ray:
Nonspecific, nonobstructive bowel gas pattern.
 
No evidence of metallic densities within the abdomen or pelvis.
 
Calcifications seen within left breast tissue.  Mammographic 
correlation may
be considered if not recently performed.

___: CXR (PA & LAT):
Compared to 1 day prior, lower right lung volume with increased 
opacification
which likely represents layering pleural effusion.
 
Surgical clips in right axilla.

___: MRI c-spine:
1. Superior endplate marrow edema and mild compression fracture 
of C7 with
edema at the superior endplate of T1 indicative of compression 
injury.
2. Increased signal of the interspinous ligament of C6/7 with 
disruption of
the ligamentum flavum at C6/7 and a small epidural hematoma 
leading to
moderate canal narrowing and mild indentation on the spinal cord 
without
abnormal signal.  The ALL and PLL are intact.  Increased signal 
of the left
C6/7 facets  corresponding with previously seen facet fracture.
3. Severe narrowing at the right C4/5 neural foramina is likely 
degenerative,
otherwise multilevel degenerative changes are present without 
high-grade
stenosis.

___: CT Chest:
1. Small to moderate right hemopneumothorax.
2. Right-sided chest tube terminating in the pleural space 
adjacent to the
medial right upper lobe.
3. Mildly displaced acute fractures of the third, fourth and 
fifth right
anterolateral ribs with associated small right upper lobe 
pulmonary contusion.
4. Acute fracture involving the right inferior aspect of the T5 
vertebral body without significant loss of height.  There is 
minimal retropulsion of a fracture fragment into the spinal 
canal without significant central canal
narrowing.
5. Moderate compression deformity of the vertebral body of T8, 
indeterminate in age.
6. Large hiatal hernia.

___: SHOULDER (AP, NEUTRAL & AXILLARY) TRAUMA RIGHT:
No acute osseous injury.  Moderate degenerative changes of the 
right
glenohumeral joint as well as several mineralized densities 
suggestive of
calcific tendinopathy.

___: CXR:
Compared to chest radiographs ___ through ___.
 
Combination of moderate right pleural effusion and severe right 
lower lobe
atelectasis has worsened.  Previous severe gaseous distension of 
the thoracic stomach has improved.  Left lung clear.  Small left 
pleural effusion increased.  Heart is mildly enlarged.  No 
pulmonary edema.  No pneumothorax.

___: CXR:
The moderate right pleural effusions unchanged.  Small left 
pleural effusion stable.  Cardiomediastinal silhouette is also 
unchanged.  Surgical clips areseen in the right axilla.
 
LABS:

___ 10:42PM   K+-4.6
___ 10:30PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 10:30PM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-5.5 
LEUK-SM*
___ 10:30PM URINE  RBC-1 WBC-7* BACTERIA-MANY* YEAST-NONE 
EPI-0
___ 10:30PM URINE  MUCOUS-MANY*
___ 09:20PM   GLUCOSE-111* UREA N-20 CREAT-1.2* SODIUM-137 
POTASSIUM-7.2* CHLORIDE-101 TOTAL CO2-23 ANION GAP-13
___ 09:20PM   CALCIUM-8.7 PHOSPHATE-3.4 MAGNESIUM-2.3
___ 09:20PM   WBC-10.7* RBC-2.98* HGB-9.4* HCT-29.7* 
MCV-100* MCH-31.5 MCHC-31.6* RDW-16.9* RDWSD-50.3*
___ 09:20PM   NEUTS-76.2* LYMPHS-11.7* MONOS-6.1 EOS-3.6 
BASOS-0.6 NUC RBCS-0.5* IM ___ AbsNeut-8.19* AbsLymp-1.26 
AbsMono-0.65 AbsEos-0.39 AbsBaso-0.06
___ 09:20PM   PLT COUNT-313
___ 09:20PM   ___ PTT-34.3 ___

MICROBIOLOGY:
___ 10:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Ms. ___ is a ___ with a history of afib on eliquis who 
presented to the ED s/p fall in late ___. She was noted to have 
left hand weakness with inability to extend her third fourth and 
fifth digit. Repeat CT head and C spine from ___ 
showed a C7 superior endplate compression fracture which 
extended into the superior aspect of the left facet with 
anterior displacement into the neural canal. She was transferred 
to ___ for evaluation by Spine. Her presenting complaint 
is
unknown. Reportedly, the patient was hypoxic at the outside 
hospital and
she was placed on O2. At ___ she was found on imaging to have 
mildly displaced acute fractures of the third, fourth and fifth 
right anterolateral ribs, small right upper lobe pulmonary 
contusion, and a small to moderate right hemopneumothorax, and 
right clavicle fracture. She also presented with impaired 
strength to the muscles innervated by left ulnar nerve and a 
left ulnar gutter splint was placed by occupational therapy. The 
patient was admitted to the Acute Care Surgery/Trauma service 
for further management.  
.
The Spine surgery service was consulted and no surgery was 
warranted.  Spine recommended a C collar for 3 months and 
follow-up in spine clinic in 2 weeks. On HD2, a pigtail chest 
tube catheter was placed to the right hemopneumothorax and 
interval chest x-rays were taken. The pigtail was removed on 
___ and post-pull film was stable with no pneumothorax 
seen. The patient's eliquis was initially held and was restarted 
once hemodynamically stable and after the chest tube was 
removed. MRI C-Spine was obtained but findings did not clearly 
explain decreased strength.
.
The patient was alert throughout hospitalization. Pain was 
managed with acetaminophen and tramadol. She remained stable 
from a cardiovascular and pulmonary standpoint. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient tolerated a 
regular diet and intake and output were monitored. The patient's 
fever curves were closely watched for signs of infection. She 
was treated with a dose of ceftriaxone for e.coli seen on urine 
culture. The patient's blood counts were closely watched for 
signs of bleeding, of which there were none. ___ dyne boots 
were used during this stay and was encouraged to get up and 
ambulate as early as possible.
.
The patient worked with occupational and physical therapy and it 
was decided she would benefit from rehab to regain her strength. 

.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
out of bed without assist, voiding without assistance, and pain 
was well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
.
Estimated length of rehab stay is less than 30 days. 
 
Medications on Admission:
Eliquis, unknown dose BID
Amlodipine 2.5 mg daily
Levothyroxine 75 mcg daily
Donepezil 10 mg QHS 
Metoprolol 12.5 mg XL daily
Memantine 10 mg BID
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
Wean as tolerated. Patient may request partial fill.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  amLODIPine 2.5 mg PO DAILY  
8.  Apixaban 5 mg PO BID  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 10 mg PO QPM  
11.  Donepezil 10 mg PO QHS  
12.  Levothyroxine Sodium 75 mcg PO DAILY  
13.  Memantine 10 mg PO BID  
14.  Metoprolol Succinate XL 12.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mildly displaced acute fractures of the third, fourth, and fifth 
right anterolateral ribs 
small right upper lobe pulmonary contusion.
Small to moderate right hemopneumothorax.
impaired strength to muscles innervated by L ulnar nerve 
Right clavicle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___nd found to have a fracture in you neck, right 
sided clavicle fracture, several rib fractures, bruising of the 
right lung, and blood in the right lung space. You had further 
imaging of your neck with an MRI because of hand weakness. You 
were seen by the Orthopedic Spine team who recommended 
management of your neck fracture with a hard cervical collar. 
You had a splint placed on the left hand to help prevent muscle 
contractures and should continue to wear your splint as 
instructed. You had a small drain placed in your right lung 
space to remove the blood caused during your fall. Once the 
blood was removed, the small tube was removed and you tolerated 
this well. You are now doing better, pain is better controlled, 
and you are ready to be discharged to rehab to continue your 
recovery.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

General Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___